US09034866B2
Synthesis of 10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo [c]imidazo[1,2-a]azepine-2-carboxamide was prepared similarly to as described in General Procedure L Methyl 10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with sodium methoxide and formamide to afford the crude title compound which was carried forward without further purification.

reactant | Methyl 10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C=3SC(=NN3)C3CC3)C1 | C20H17BrN4O2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
product | 10-bromo-3-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=3SC(=NN3)C3CC3)C1 | C19H16BrN5OS
